* source SINGLESWITCH_FORWARDCONVERTER
V_V5         N9038023 0  
+PULSE -1 8 0 1n 1n 25u 100u
D_D5         0 N9038870 MUR150 
D_D4         N9038067 N9038870 MUR150 
C_C4         VOUT 0  50u IC=10 TC=0,0 
L_L3         N9038870 VOUT  500u  
V_Vs2         VIN 0 100Vdc
R_R_Load2         VOUT 0  15 TC=0,0 
L_L1         VIN N9038029  500uH  
L_L2         N9038067 0  250uH  
M_M3         N9038029 N9038179 0 0 IRFZ34
Kn_K1         L_L1 L_L2     1
R_R1         N9038179 N9038023  33 TC=0,0 
